US06600037B1
4-[4-(1-Allyloxycarbonylamino-1-methylethyl)-3-fluorophenyl]-5-chloro-N-[4-(2-(imidazol-1-yl)ethyl)phenyl]pyrimidine-2-amine
The title compound was prepared from 4-[4-(1-allyloxycarbonylamino-1-methylethyl)-3-fluorophenyl]-5-chloro-N-[4-(2-p-toluenesulphonyloxyethyl)-phenyl]pyrimidine-2-amine (504 mg, 0.79 mmol) and imidazole (337 mg, 4.95 mmol) following the method described for Example 5. The crude product was purified by column chromatography (silica; 5% methanol in CH2Cl2) to give the title compound as a yellow solid (330 mg) m.p. 88° forms gum. δH (CDCl3) 8.43 (1H, s), 7.69 (1H, dd, J 8.2, 1.8 Hz), 7.61 (1H, dd, J 13.3, 1.8 Hz), 7.54 (2H, d, with fine splitting, J 8.6 Hz), 7.50 (1H, t, J 8.5 Hz), 7.34 (1H, s), 7.18 (1H, s), 7.04 (3H, m), 5.89 (1H, bs), 5.30-5.12 (3H, m), 4.50 (2H, dt, J 5.6, 1.4 Hz), 4.16 (2H, t, J 7.1 Hz), 3.03 (2H, t, J 7.0 Hz), 1.78 (6H, s); MS (ESI) 535 (MH+, 100%).

reactant | 4-[4-(1-allyloxycarbonylamino-1-methylethyl)-3-fluorophenyl]-5-chloro-N-[4-(2-p-toluenesulphonyloxyethyl)-phenyl]pyrimidine-2-amine | 0.79 mmol, 504 mg | C(C=C)OC(=O)NC(C)(C)C1=C(C=C(C=C1)C1=NC(=NC=C1Cl)NC1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C)F | C32H32ClFN4O5S
reactant | imidazole | 4.95 mmol, 337 mg | N1C=NC=C1 | C3H4N2
product | 4-[4-(1-Allyloxycarbonylamino-1-methylethyl)-3-fluorophenyl]-5-chloro-N-[4-(2-(imidazol-1-yl)ethyl)phenyl]pyrimidine-2-amine | 330 mg | C(C=C)OC(=O)NC(C)(C)C1=C(C=C(C=C1)C1=NC(=NC=C1Cl)NC1=CC=C(C=C1)CCN1C=NC=C1)F | C28H28ClFN6O2
